US05932567
c) Boc-(D)-phenylalanylproline (6-cyano)-3-picolylamide
8.12 g of diisopropylethylamine, and subsequently 11 ml (15 mmol) of propanephosphonic anhydride (50% strength solution in ethyl acetate), were added dropwise to a solution of 2.11 g (12.5 mmol) of 2-cyano-5-(aminomethyl)pyridine and 4.5 g (12.5 mmol) of Boc-D-Phe-Pro-OH in 70 ml of CH2Cl2 at -5° C. The mixture was then stirred for 2 h, allowing the temperature to rise from -5° to 20° C. The organic phase was washed with water, 5% strength sodium bicarbonate and 5% strength citric acid solutions, dried over Na2SO4 and evaporated to dryness, a pale yellowish crystalline residue was obtained, melting point 167-170° C., which was used in the next reaction without further purification.

reactant | diisopropylethylamine | 8.12 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-cyano-5-(aminomethyl)pyridine | 12.5 mmol, 2.11 g | C(#N)C1=NC=C(C=C1)CN | C7H7N3
reactant | Boc-D-Phe-Pro-OH | 12.5 mmol, 4.5 g | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C19H26N2O5
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
product | Boc-(D)-phenylalanylproline (6-cyano)-3-picolylamide | C(#N)C1=CC=C(C=N1)CNC([C@H]1N(CCC1)C([C@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C26H31N5O4
